### PR TITLE
[Merged by Bors] - feat(RingTheory/Finiteness/Cofinite): co-finitely generated submodules

### PR DESCRIPTION
**Pull request by martinwintermath**
Add new file `Cofinite.lean` that defines *co-finitely generated* (CoFG) submodules. The main definition is

* `Submodule.CoFG`: A submodule is CoFG if the quotient of the module by this submodule is finitely generated (FG). 

Prove

* lattice operations for CoFG submodules.
* complements of FG submodules are CoFG and vice versa.
* the kernel of a linear map is CoFG if and only if the range is FG.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Finiteness/Cofinite.lean [hunk 1]
```diff
@@ -0,0 +1,125 @@
...
+@[expose] public section
+
+namespace Submodule
+
+section Ring
+
+variable {R : Type*} [Ring R]
+variable {M : Type*} [AddCommGroup M] [Module R M]
+
+/-- A submodule `S` of a module `M` is co-finitely generated (CoFG) if the quotient
```
Comment (vihdzp) [inline Mathlib/RingTheory/Finiteness/Cofinite.lean:32]: Just to be clear, this is co-(finitely generated), not (co-finitely) generated, right?

Comment (martinwintermath) [reply Mathlib/RingTheory/Finiteness/Cofinite.lean:32]: Yes. This seems to be the way the term "cofinitely generated" or "co-finitely generated" is usually interpreted in the context of submodules, no? Do you suggest any changes to the wording?

Comment (vihdzp) [reply Mathlib/RingTheory/Finiteness/Cofinite.lean:32]: I'm not very familiar with this concept, just felt like asking.

File: Mathlib/RingTheory/Finiteness/Cofinite.lean [hunk 2]
```diff
@@ -0,0 +1,125 @@
...
+  space `M ⧸ S` is finitely generated. -/
+abbrev CoFG (S : Submodule R M) : Prop := Module.Finite R (M ⧸ S)
+
+/-- A submodule of a noetherian module is CoFG. -/
+@[simp] theorem CoFG.of_isNoetherian [IsNoetherian R M] {S : Submodule R M} : S.CoFG :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Finiteness/Cofinite.lean]: You only need `Module.Finite R M` here right?

File: Mathlib/RingTheory/Finiteness/Cofinite.lean [hunk 3]
```diff
@@ -0,0 +1,125 @@
...
+
+/-- A submodule of a finitely generated module is CoFG. -/
+alias CoFG.of_finite := CoFG.of_isNoetherian
+
+/-- The top submodule is CoFG. -/
+@[simp] theorem CoFG.top : (⊤ : Submodule R M).CoFG := inferInstance
+
+/-- If the bottom submodule is CoFG, then the module is finite. -/
+theorem _root_.Module.Finite.of_cofg_bot (h : (⊥ : Submodule R M).CoFG) : Module.Finite R M
+    := Module.Finite.equiv (quotEquivOfEqBot ⊥ rfl)
```
Comment (erdOne) [inline Mathlib/RingTheory/Finiteness/Cofinite.lean]: Can you turn this into an iff?

File: Mathlib/RingTheory/Finiteness/Cofinite.lean [hunk 4]
```diff
@@ -0,0 +1,125 @@
...
+
+/-- A complement of a CoFG submodule is FG. -/
+theorem CoFG.isCompl_fg {S T : Submodule R M} (hST : IsCompl S T) (hS : S.CoFG) : T.FG
```
Comment (erdOne) [inline Mathlib/RingTheory/Finiteness/Cofinite.lean]:
```suggestion
theorem CoFG.fg_of_isCompl {S T : Submodule R M} (hST : IsCompl S T) (hS : S.CoFG) : T.FG
```

File: Mathlib/RingTheory/Finiteness/Cofinite.lean [hunk 5]
```diff
@@ -0,0 +1,125 @@
...
+
+/-- The sup of a CoFG submodule with another submodule is CoFG. -/
+theorem CoFG.sup_left {S : Submodule R M} (hS : S.CoFG) (T : Submodule R M) : (S ⊔ T).CoFG
+  := Module.Finite.equiv (quotientQuotientEquivQuotientSup S T)
+
+alias CoFG.sup := CoFG.sup_left
+
+/-- The sup of a CoFG submodule with another submodule is CoFG. -/
+theorem CoFG.sup_right (S : Submodule R M) {T : Submodule R M} (hT : S.CoFG) : (S ⊔ T).CoFG
+  := Module.Finite.equiv (quotientQuotientEquivQuotientSup S T)
```
Comment (erdOne) [inline Mathlib/RingTheory/Finiteness/Cofinite.lean]: Do you really need this if you have `CoFG.of_cofg_le`?

File: Mathlib/RingTheory/Finiteness/Cofinite.lean [hunk 6]
```diff
@@ -0,0 +1,125 @@
...
+/-- A submodule that contains a CoFG submodule is CoFG. -/
+theorem CoFG.of_cofg_le {S T : Submodule R M} (hT : S ≤ T) (hS : S.CoFG) : T.CoFG := by
+  rw [← sup_eq_right.mpr hT]
+  exact hS.sup T
+
+/-- If a family of submodules contains a CoFG submodule then the supremum of the family is CoFG. -/
+protected theorem CoFG.sSup {s : Set (Submodule R M)} (hs : ∃ S ∈ s, S.CoFG) : (sSup s).CoFG := by
+  obtain ⟨S, hS, hcofg⟩ := hs
+  rw [right_eq_sup.mpr <| le_sSup hS]
+  exact hcofg.sup _
```
Comment (erdOne) [inline Mathlib/RingTheory/Finiteness/Cofinite.lean]: Do you have any actual applications of this? I imagine in applications you would already have a `S ∈ s` such that `S.CoFG`, and then this is just `hS.of_cofg_le (le_sSup hS)`.

File: Mathlib/RingTheory/Finiteness/Cofinite.lean [hunk 7]
```diff
@@ -0,0 +1,125 @@
...
+protected theorem CoFG.sInf {s : Finset (Submodule R M)} (hs : ∀ S ∈ s, S.CoFG) :
+    (sInf (s : Set (Submodule R M))).CoFG := by classical
+  induction s using Finset.induction with
+  | empty => simp
+  | insert w s hws hs' =>
+    simp only [Finset.mem_insert, forall_eq_or_imp, Finset.coe_insert, sInf_insert] at *
+    exact hs.1.inf (hs' hs.2)
+
+/-- Over a noetherian ring the infimum of a finite family of CoFG submodules is CoFG. -/
+protected theorem CoFG.sInf' {s : Set (Submodule R M)} (hs : s.Finite) (hcofg : ∀ S ∈ s, S.CoFG) :
```
Comment (erdOne) [inline Mathlib/RingTheory/Finiteness/Cofinite.lean]:
```suggestion
protected theorem CoFG.sInf_of_finite {s : Set (Submodule R M)} (hs : s.Finite) (hcofg : ∀ S ∈ s, S.CoFG) :
```
And I assume an `iSup` and `biSup` version would also be useful.

File: Mathlib/RingTheory/Finiteness/Cofinite.lean (hunk 2 above)
Comment (martinwintermath) [reply Mathlib/RingTheory/Finiteness/Cofinite.lean]: `IsNoetherian R M` is weaker, no? I added a second lemma with `Module.Finite R M` (this was already there before as an alias, I removed that).

File: Mathlib/RingTheory/Finiteness/Cofinite.lean (hunk 5 above)
Comment (martinwintermath) [reply Mathlib/RingTheory/Finiteness/Cofinite.lean]: I agree that "need" is perhaps too strong. But I always found lemmas like these easier to find in the situations where I argued about sup, rather than needing to remember that the class in question is upwards closed. Same for sSup.

File: Mathlib/RingTheory/Finiteness/Cofinite.lean (hunk 1 above)
Comment (martinwintermath) [reply Mathlib/RingTheory/Finiteness/Cofinite.lean:32]: Can I resolve this or is there more to discuss?

File: Mathlib/RingTheory/Finiteness/Cofinite.lean (hunk 2 above)
Comment (plp127) [reply Mathlib/RingTheory/Finiteness/Cofinite.lean]: The module being noetherian is a stronger hypothesis, but they are equivalent over a noetherian ring. See `Module.IsNoetherian.finite` and `isNoetherian_of_isNoetherianRing_of_finite`.

Comment (martinwintermath) [reply Mathlib/RingTheory/Finiteness/Cofinite.lean]: Interesting. Clearly I got this the wrong way around. I removed the `IsNoetherian` version in favor of the `Module.Finite` version.

File: Mathlib/RingTheory/Finiteness/Cofinite.lean [hunk 8]
```diff
@@ -0,0 +1,116 @@
...
+
+/-- The sup of a CoFG submodule with another submodule is CoFG. -/
+theorem CoFG.sup_left {S : Submodule R M} (hS : S.CoFG) (T : Submodule R M) : (S ⊔ T).CoFG
+  := of_cofg_le le_sup_left hS
+
+alias CoFG.sup := CoFG.sup_left
+
+/-- The sup of a CoFG submodule with another submodule is CoFG. -/
+theorem CoFG.sup_right (S : Submodule R M) {T : Submodule R M} (hT : T.CoFG) : (S ⊔ T).CoFG
+  := of_cofg_le le_sup_right hT
```
Comment (erdOne) [inline Mathlib/RingTheory/Finiteness/Cofinite.lean]: I am still not sure if we should have this. The author's claim is that this has discoverability benefits but I am skeptical of this. "A satisfies P => A sup B satisfies P" is just a more obscure way of saying upwards closed.

**Review by erdOne — APPROVED** [review]
There is a comment on some lemmas that I find unnecessary and frankly somewhat confusing, but this is a very minor point and I don't want to block this PR on it. Aside from this which I would like third opinion on, the PR looks good to me
Thanks!
maintainer delegate?

File: Mathlib/RingTheory/Finiteness/Cofinite.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/RingTheory/Finiteness/Cofinite.lean:32]: I think it's fine to resolve this. Thanks for clarifying.

File: Mathlib/RingTheory/Finiteness/Cofinite.lean (hunk 8 above)
Comment (jcommelin) [reply Mathlib/RingTheory/Finiteness/Cofinite.lean]: Fair enough, but it is also very short, so I don't mind too much whether to include this or not.

File: Mathlib/RingTheory/Finiteness/Cofinite.lean [hunk 9]
```diff
@@ -0,0 +1,116 @@
...
+abbrev CoFG (S : Submodule R M) : Prop := Module.Finite R (M ⧸ S)
+
+/-- A submodule of a finite module is CoFG. -/
+@[simp] theorem CoFG.of_finite [Module.Finite R M] {S : Submodule R M} : S.CoFG :=
+  Module.Finite.quotient R S
+
+/-- The top submodule is CoFG. -/
+@[simp] theorem CoFG.top : (⊤ : Submodule R M).CoFG := inferInstance
+
+/-- A module is finite if and only if the bottom submodule is CoFG. -/
```
Comment (jcommelin) [inline Mathlib/RingTheory/Finiteness/Cofinite.lean:44]:
```suggestion
variable (R M) in
/-- A module is finite if and only if the bottom submodule is CoFG. -/
```

File: Mathlib/RingTheory/Finiteness/Cofinite.lean [hunk 10]
```diff
@@ -0,0 +1,116 @@
...
+theorem _root_.Module.Finite.iff_cofg_bot : (⊥ : Submodule R M).CoFG ↔ Module.Finite R M :=
+  ⟨fun _ => Module.Finite.equiv (quotEquivOfEqBot ⊥ rfl), fun _ => CoFG.of_finite⟩
+
+/-- A complement of a CoFG submodule is FG. -/
+theorem CoFG.fg_of_isCompl {S T : Submodule R M} (hST : IsCompl S T) (hS : S.CoFG) : T.FG
+  := Module.Finite.iff_fg.mp <| Module.Finite.equiv <| quotientEquivOfIsCompl S T hST
```
Comment (jcommelin) [inline Mathlib/RingTheory/Finiteness/Cofinite.lean]:
```suggestion
theorem CoFG.fg_of_isCompl {S T : Submodule R M} (hST : IsCompl S T) (hS : S.CoFG) : T.FG :=
  Module.Finite.iff_fg.mp <| Module.Finite.equiv <| quotientEquivOfIsCompl S T hST
```
also elsewhere, please put := at the end of line, or move the type to the next line.

File: Mathlib/RingTheory/Finiteness/Cofinite.lean (hunk 8 above)
Comment (vihdzp) [reply Mathlib/RingTheory/Finiteness/Cofinite.lean]: I agree that this shouldn't be here, it feels like a bad precedent to set.

Comment (martinwintermath) [reply Mathlib/RingTheory/Finiteness/Cofinite.lean]: I removed the lemmas for now. I use them frequently so I stand the point that they are useful. But since I definitely would take this as a precedent, I think it is good to first discuss this on zulip.

File: Mathlib/RingTheory/Finiteness/Cofinite.lean [hunk 11]
```diff
@@ -0,0 +1,107 @@
...
+variable {N : Type*} [AddCommGroup N] [Module R N]
+
+/-- The range of a linear map is FG if and only if the kernel is CoFG. -/
+theorem range_fg_iff_ker_cofg {f : M →ₗ[R] N} : (range f).FG ↔ (ker f).CoFG := by
+  rw [← Module.Finite.iff_fg]
+  exact Module.Finite.equiv_iff <| f.quotKerEquivRange.symm
+
+/-- The kernel of a linear map into a noetherian module is CoFG. -/
+protected theorem CoFG.ker [IsNoetherian R N] (f : M →ₗ[R] N) : (ker f).CoFG
+    := range_fg_iff_ker_cofg.mp <| IsNoetherian.noetherian _
```
Comment (jcommelin) [inline Mathlib/RingTheory/Finiteness/Cofinite.lean]:
```suggestion
protected theorem CoFG.ker [IsNoetherian R N] (f : M →ₗ[R] N) : (ker f).CoFG :=
    range_fg_iff_ker_cofg.mp <| IsNoetherian.noetherian _
```

Comment (Vierkantor) [reply Mathlib/RingTheory/Finiteness/Cofinite.lean]: Looks like this suggestion did not get applied:

File: Mathlib/RingTheory/Finiteness/Cofinite.lean [hunk 12]
```diff
@@ -0,0 +1,107 @@
...
+  exact CoFG.ker _
+
+/-- Over a noetherian ring the infimum of a finite family of CoFG submodules is CoFG. -/
+protected theorem CoFG.sInf {s : Finset (Submodule R M)} (hs : ∀ S ∈ s, S.CoFG) :
+    (sInf (s : Set (Submodule R M))).CoFG := by classical
+  induction s using Finset.induction with
+  | empty => simp
+  | insert w s hws hs' =>
+    simp only [Finset.mem_insert, forall_eq_or_imp, Finset.coe_insert, sInf_insert] at *
+    exact hs.1.inf (hs' hs.2)
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Finiteness/Cofinite.lean:96]: I would expect `classical` to appear on the line below, just like any other tactic. It turns out `by classical` on its own line occurs 12 other times in Mathlib, so I'll check if other reviewers think this should be accepted style.
```suggestion
    (sInf (s : Set (Submodule R M))).CoFG := by
  classical
  induction s using Finset.induction with
  | empty => simp
  | insert w s hws hs' =>
    simp only [Finset.mem_insert, forall_eq_or_imp, Finset.coe_insert, sInf_insert] at *
    exact hs.1.inf (hs' hs.2)
```

**Review by Vierkantor — APPROVED** [review]
Looks good to me with two style remarks. I'm checking with the reviewer team on Zulip about the `by classical`, will delegate/merge momentarily if that discussion resolves.

File: Mathlib/RingTheory/Finiteness/Cofinite.lean (hunk 12 above)
Comment (Vierkantor) [reply Mathlib/RingTheory/Finiteness/Cofinite.lean:96]: There does not seem to be a consensus emerging, so please choose whatever formatting you prefer.

Comment (martinwintermath) [reply Mathlib/RingTheory/Finiteness/Cofinite.lean:96]: Thanks. I will then keep the `by classical`.
